US06344459B1
To a stirred solution of 7-amino-4-[(3-bromophenyl)amino]quinazoline (J Med Chem, 1995;38:3482) (150 mg, 0.48 mmol) in dry DMF (20 mL) was added methacrylic acid (200 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI.HCl) (2.5 mol, 228 mg), the reaction mixture was stirred overnight then further amounts of EDCI.HCl (230 mg) and methacrylic acid (200 mg) were added. After a further 2 days stirring the solvent was removed under vacuum and the residue diluted with saturated NaHCO3, extracted with ethyl acetate (EtOAc) and then the combined organic extracts were dried over anhydrous Na2SO4, concentrated under reduced pressure and chromatographed on silica gel eluting with MeOH/CH2Cl2/EtOAc (5:45:50) to MeOH/CH2Cl2/EtOAc (10:40:50) to give N-[4-[(3-bromophenyl)amino]quinazolin-7-yl]-2-methyl-acrylamide (43 mg, 24%) as a pale brown solid, np (CH2Cl2/hexane) 255-259° C.

reactant | 7-amino-4-[(3-bromophenyl)amino]quinazoline | 0.48 mmol, 150 mg | NC1=CC=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)Br | C14H11BrN4
reactant | methacrylic acid | 200 mg | C(C(=C)C)(=O)O | C4H6O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.5 mol, 228 mg | Cl.CN(CCCN=C=NCC)C
reactant | EDCI.HCl | 230 mg | CCN=C=NCCCN(C)C.Cl
reactant | methacrylic acid | 200 mg | C(C(=C)C)(=O)O | C4H6O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[4-[(3-bromophenyl)amino]quinazolin-7-yl]-2-methyl-acrylamide | 43 mg, 24% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=CC=C12)NC(C(=C)C)=O | C18H15BrN4O
